US07144899B2
To a solution of 5-chloro-2-(1H-tetrazol-1-yl)benzamide (1.0 g, 4.5 mmol) in THF (29 mL) was added (methoxycarbonylsulfamoyl)ammonium hydroxide, inner salt (2.1 g, 8.8 mmol) in five portions over 5 h. Water was added and the reaction mixture was extracted with ethyl acetate. The combined organic layers were washed with brine. Drying and solvent evaporation gave 5-chloro-2-tetrazol-1-yl-benzonitrile (0.83 g, 90%); 1H NMR (400 MHz, CDCl3): δ 9.26 (s, 1H), 7.90 (d, J=1.0 Hz, 1H,), 7.85 (m, 2H).

reactant | 5-chloro-2-(1H-tetrazol-1-yl)benzamide | 4.5 mmol, 1.0 g | ClC=1C=CC(=C(C(=O)N)C1)N1N=NN=C1 | C8H6ClN5O
reactant | (methoxycarbonylsulfamoyl)ammonium hydroxide | [OH-].COC(=O)NS(=O)(=O)[NH3+]
reactant | Water | O | H2O
solvent | THF | 29 mL | C1CCOC1 | C4H8O
product | 5-chloro-2-tetrazol-1-yl-benzonitrile | 0.83 g, 90% | ClC=1C=CC(=C(C#N)C1)N1N=NN=C1 | C8H4ClN5
